US06291716B1
In a 500 ml pressure reactor, acetophenone 26 mg (0.22 mmol), benzylamine 12 mg (0.11 mmol), tristriphenylphosphine rhodium (I) chloride 10.0 mg (0.011 mmol) and 3,3-dimethyl-1-butene 91 mg (1.1 mmol) were placed. While the reactor was stopped with a stopper, the reactants were heated at 150° C. for 6 hours with stirring. After completion of the on, a reactant mixture was dissolved in THF 3 ml and added with 1 N HCl soln. 10 ml, followed by hydrolysis with stirring for 12 hours at room temperature. After the mixture was two or three times extracted with Et2O and CH2Cl2, the organic layer was dried over MgSO4 and then filtered, and the solvent was evaporated under reduced pressure. The reactant mixture of the organic layer was purified by column chromatography on silica gel (5:2 hexane:ethyl acetate) to obtain 2-(3,3-dimethylbutyl)phenyl-1-ethanone 42 mg (0.21 mmol). Yield: 95%. Under the same conditions, various olefins were employed, and the results are given in Table 7, below.

reactant | acetophenone | 0.22 mmol, 26 mg | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | benzylamine | 0.11 mmol, 12 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | 3,3-dimethyl-1-butene | 1.1 mmol, 91 mg | CC(C=C)(C)C | C6H12
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-(3,3-dimethylbutyl)phenyl-1-ethanone | 0.21 mmol, 42 mg, Yield: 95% | CC(CCC1=C(C=CC=C1)C(C)=O)(C)C | C14H20O
